US07973047B2
Step 3: 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-ol
To a solution of 6-bromo-2,2-dimethyl-1,2-dihydroquinoline (4.50 g, 18.9 mmol) in tetrahydrofuran (37.8 ml, 18.9 mmol) was added BH3DMS (3.58 ml, 37.8 mmol) dropwise at 0 deg C. The resulting solution was allowed to warm to RT and stirred for 1 hour. The temperature was returned to 0 deg C. and sodium hydroxide (6N) (30.0 ml, 18.9 mmol) followed by Hydrogen peroxide (30.0 ml, 18.9 mmol) was slowly added to the reaction mixture. The resulting solution was stirred for 45 minutes and then transferred to a sep. funnel containing water and EtOAc. The layer were separated and the aqueous layer was subsequently washed 3× with DCM. The organic layers were dried with MgSO4, filtered and concentrated. The crude mixture was then purified with the MPLC (100% DCM to 10% 90:10:1 DCM:MeOH:NH4OH) to provide the desired product. MS m/z: 257 (M+1).

reactant | 6-bromo-2,2-dimethyl-1,2-dihydroquinoline | 18.9 mmol, 4.50 g | BrC=1C=C2C=CC(NC2=CC1)(C)C | C11H12BrN
reactant | tetrahydrofuran | 18.9 mmol, 37.8 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 18.9 mmol, 6N, 30.0 ml | [OH-].[Na+]
reactant | Hydrogen peroxide | 18.9 mmol, 30.0 ml | OO | H2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-bromo-2,2-dimethyl-1,2,3,4-tetrahydroquinolin-4-ol | BrC=1C=C2C(CC(NC2=CC1)(C)C)O | C11H14BrNO
